US07402595B2
3-acetyl-6-bromo-2-[4-(1-hydroxyiminoethyl)benzyl]-4-phenyl-2H-isoquinolin-1-one
To a solution of 3-acetyl-2-(4-acetylbenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one (95 mg) in ethanol (10 ml) were added hydroxylamine hydrochloride (17 mg) and sodium acetate (29 mg) at room temperature and the mixture was heated under reflux for 6 hrs. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution, washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1→3/2) to give the title compound (84 mg, 86%).

reactant | 3-acetyl-2-(4-acetylbenzyl)-6-bromo-4-phenyl-2H-isoquinolin-1-one | 95 mg | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(C)=O | C26H20BrNO3
reactant | hydroxylamine hydrochloride | 17 mg | Cl.NO
reactant | sodium acetate | 29 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-acetyl-6-bromo-2-[4-(1-hydroxyiminoethyl)benzyl]-4-phenyl-2H-isoquinolin-1-one | 84 mg, 86% | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C(C)=NO | C26H21BrN2O3
